US07662830B2
3. 6-{4-[6-(3-Chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-ylamine
Heat a mixture of 4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine (300 mg, 0.59 mmol) and SnCl2-2H2O (529 mg, 2.95 mmol) in EtOAc at 80° C. for 16 h. Cool to room temperature and partition between EtOAc and 1N NaOH. Wash with water, dry the solution (Na2SO4), and concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc to afford the title compound as a light-yellow solid. 1H NMR (400 MHz, CDCl3): δ 1.30 (t, 3H, J=6.4 Hz, CH3); 1.69 (m, 1H, CH2CH2); 1.91 (m, 1H, CH2CH2); 2.06 (m, 2H, CH2CH2); 2.28 (s, 3H, Ar—CH3); 3.10 (m, 4H); 3.47 (br, 2H, NH2); 3.68 (m, 4H); 3.77 (m, 4H); 4.34 (m, 1H); 6.25 (s, 1H, Ar—H); 6.88 (d, J=2.0 Hz, 1H); 7.18 (m, 1H); 7.70 (d, 1H, J=3.2 Hz); 7.89 (m, 1H); 8.07 (m, 1H).

reactant | 4-(3-chloro-4-fluoro-phenyl)-6-[4-(3-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-2-(2-methyl-pyrrolidin-1-yl)-pyrimidine | 0.59 mmol, 300 mg | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=C(C=C1C)[N+](=O)[O-])N1C(CCC1)C | C25H27ClFN7O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-{4-[6-(3-Chloro-4-fluoro-phenyl)-2-(2-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-piperazin-1-yl}-5-methyl-pyridin-3-ylamine | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1C(CCC1)C)N1CCN(CC1)C1=C(C=C(C=N1)N)C | C25H29ClFN7
